US06777409B2
1-(2-Chlorophenyl)-cyclopropane-carbonitrile
A solution of 13.1 g of 2-chlorophenylacetonitrile and 20.3 g of 1,2-dibromopropane in 142 ml of DMF is mixed with 9 g of sodium hydride [55-65% in oil] at room temperature. It is stirred for several hours and carefully added to water. After extraction with ethyl acetate and filtration by silica gel, the desired product is obtained: 13.1 g

reactant | 2-chlorophenylacetonitrile | 13.1 g | ClC1=C(C=CC=C1)CC#N | C8H6ClN
reactant | 1,2-dibromopropane | 20.3 g | BrCC(C)Br | C3H6Br2
reactant | sodium hydride | 9 g | [H-].[Na+]
reactant | water | O | H2O
solvent | DMF | 142 ml | CN(C)C=O | C3H7NO
product | 1-(2-Chlorophenyl)-cyclopropane-carbonitrile | ClC1=C(C=CC=C1)C1(CC1)C#N | C10H8ClN
